US07534894B2
Step 2: [(3-bromo-4′-{[[(2-butyl-1-benzofuran-3-yl)carbonyl](methyl)amino]methyl}-1,1′-biphenyl-4-yl)oxy]acetic acid.
1 N NaOH (2.14 mL, 2.14 mmol) was added under nitrogen to a solution of methyl[(3-bromo-4′-{[[(2-butyl-1-benzofuran-3-yl)carbonyl](methyl)amino]methyl}-1,1′-biphenyl-4-yl)oxy]acetate (1.00 g, 1.78 mmol), prepared in the previous step, in 50 mL of methanol plus 5 mL of water at room temperature. After the addition the reaction was stirred at room temperature for 4 h. The reaction was acidified by the addition of 2.5 mL of 1 N HCl and then concentrated under reduced pressure to remove most of the methanol. The solid present was collected by filtration, rinsed with water and dried under reduced pressure to give the title compound (932 mg, 100%) as a light brown solid, mp 72-78° C. Elemental Analysis for C29H28BrNO5.0.15 H2O. Calc'd: C, 62.97; H, 5.16; N, 2.53. Found: C, 62.71; H, 5.19; N, 2.39

reactant | NaOH | 2.14 mmol, 1 N, 2.14 mL | [OH-].[Na+]
reactant | methyl[(3-bromo-4′-{[[(2-butyl-1-benzofuran-3-yl)carbonyl](methyl)amino]methyl}-1,1′-biphenyl-4-yl)oxy]acetate | 1.78 mmol, 1.00 g | COC(COC1=C(C=C(C=C1)C1=CC=C(C=C1)CN(C)C(=O)C1=C(OC2=C1C=CC=C2)CCCC)Br)=O | C30H30BrNO5
reactant | water | 5 mL | O | H2O
reactant | HCl | 1 N, 2.5 mL | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | [(3-bromo-4′-{[[(2-butyl-1-benzofuran-3-yl)carbonyl](methyl)amino]methyl}-1,1′-biphenyl-4-yl)oxy]acetic acid | 932 mg, 100% | BrC=1C=C(C=CC1OCC(=O)O)C1=CC=C(C=C1)CN(C)C(=O)C1=C(OC2=C1C=CC=C2)CCCC | C29H28BrNO5
